US07235537B2
401.2 mg of (S)-6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-(tetrahydropyran-2-ylmethyl)-3H-benzoimidazole-5-carboxylic acid (2-hydroxyethoxy)-amide, 78.6 mg of tetrazole and 320 μL of di-tertbutyl diisopropyl-phosphoramidite were dissolved/suspended in 3 mL of anhydrous DMF under an atmosphere of dry N2. The reaction mixture was stirred for about 4 hrs after which time the reaction was cooled to 0° C. and 300 μL of 70% tert-butyl hydrogen peroxide were added. The cooling bath was then taken away and the reaction was slowly warmed up to room temperature and reacted for 2.5 hrs. The reaction was then quenched with 10 mL of saturated aqueous sodium thiosulfate. The resulting solution was partitioned between a solution of ethyl ether/ethyl acetate (10:1) and saturated aqueous NaHCO3. The organic layer was saved and successively washed with water (3×) and then with brine. The resulting organic layer was dried over MgSO4, filtered and concentrated under vacuum. The resulting residue was purified using silica gel chromatography eluting with 2:1 Ethyl acetate/dichloromethane to give 295.3 mg of phosphoric acid mono-(2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-(tetrahydropyran-2-ylmethyl)-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethyl) ester di-tert-butyl ester which was then dissolved in a solution of 5 mL of TFA and 3 mL of dichloromethane under an atmosphere of dry N2. The reaction was stirred at room temperature for about 2 hours after which time it was concentrated under vacuum. The resulting residue was taken up in methanol and re-concentrated (2×). The resulting residue was stirred in methanol for about 1 hour. The white solid was collected via suction filtration, washed with methanol followed by ethyl ether and then air-dried to give 188.6 mg of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 11.83 (brs, 1H), 8.35 (s, 1H), 7.95 (brs, 1H), 7.79 (s, 1H), 7.61 (d, 1H), 7.26 (dd, 1H), 6.40 (dd, 1H), 4.37 (m, 1H), 4.26 (m, 1H), 4.03 (brs, 4H), 3.85 (m, 1H), 3.70 (m, 1H), 3.27 (m, 1H), 1.80 (m, 1H), 1.70 (m, 1H), 1.46 (m, 3H), 1.22 (m, 1H); 19F NMR (376 MHz, DMSO-d6) −132.9 (s, 1F).

reactant | (S)-6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-(tetrahydropyran-2-ylmethyl)-3H-benzoimidazole-5-carboxylic acid (2-hydroxyethoxy)-amide | 401.2 mg | OCCONC(=O)C1=CC2=C(N=CN2C[C@H]2OCCCC2)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C22H23BrClFN4O4
reactant | tetrazole | 78.6 mg | N1N=NN=C1 | CH2N4
reactant | di-tertbutyl diisopropyl-phosphoramidite | 320 μL | C(C)(C)N(P(OC(C)(C)C)OC(C)(C)C)C(C)C | C14H32NO2P
reactant | tert-butyl hydrogen peroxide | 300 μL | C(C)(C)(C)OO | C4H10O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | phosphoric acid mono-(2-{[6-(4-bromo-2-chlorophenylamino)-7-fluoro-3-(tetrahydropyran-2-ylmethyl)-3H-benzoimidazole-5-carbonyl]-aminooxy}-ethyl) ester di-tert-butyl ester | 295.3 mg | C(C)(C)(C)OP(OCCONC(=O)C1=CC2=C(N=CN2CC2OCCCC2)C(=C1NC1=C(C=C(C=C1)Br)Cl)F)(OC(C)(C)C)=O | C30H40BrClFN4O7P
